US09428528B2
Step 1 Preparation of (S)-tert-butyl 1-(5-bromopyridin-2-yl)-2-hydroxyethylcarbamate
A solution of (S)-2-amino-2-(5-bromopyridin-2-yl)ethanol (250 mg, 0.99) in CH2Cl2 (10 ml) is treated with di-tert-butyl dicarbonate (237 mg, 1.08 mmol) and triethylamine (0.275 ml, 1.97), and stirred at ambient temperature for 16 hours. The reaction mixture is washed with 10% aqueous citric acid solution (25 ml). The organic phase is dried over anhydrous magnesium sulfate, filtered and concentrated to afford the title compound (262 mg): m/z M+H 317. Retention time 2.50 min.

reactant | (S)-2-amino-2-(5-bromopyridin-2-yl)ethanol | 250 mg | N[C@H](CO)C1=NC=C(C=C1)Br | C7H9BrN2O
reactant | di-tert-butyl dicarbonate | 1.08 mmol, 237 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.275 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(5-bromopyridin-2-yl)-2-hydroxyethylcarbamate | 262 mg | BrC=1C=CC(=NC1)[C@@H](CO)NC(OC(C)(C)C)=O | C12H17BrN2O3
